US04582839
A mixture of methyl 2-bromo-3-{4-[2-(5-ethyl-2-pyridyl)-3-hydroxypropoxy]phenyl}propionate (12.2 g), thiourea (2.2 g), sodium acetate (2.4 g) and ethanol (100 ml) was heated under reflux for 3 hours, and 3N-hydrochloric acid (100 ml) was added to the mixture, followed by heating under reflux for 12 hours. After concentration, the reaction mixture was neutralized with aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then freed of the solvent. The residue was chromatographed on a silica-gel (200 g) column, and elution was effected with benzene-acetone (5:1, V/V) to give 5-{4-[2-(5-ethyl-2-pyridyl)-3-hydroxypropoxy]benzyl}-2,4-thiazolidinedione in the form of an oily substance. Yield of 4.8 g (42.9%). The substance was dissolved in methanol (15 ml), and sodium methylate (28% methanol solution, 2.9 g) was added to the solution, followed by addition of ethyl ether (150 ml) to give the sodium salt in the form of crystals. Yield of 4.8 g (40.7%). Recrystallization from ethanol-ethyl ether produced colorless prisms. m.p. 237°-238° C.

reactant | methyl 2-bromo-3-{4-[2-(5-ethyl-2-pyridyl)-3-hydroxypropoxy]phenyl}propionate | 12.2 g | BrC(C(=O)OC)CC1=CC=C(C=C1)OCC(CO)C1=NC=C(C=C1)CC | C20H24BrNO4
reactant | thiourea | 2.2 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 2.4 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-{4-[2-(5-ethyl-2-pyridyl)-3-hydroxypropoxy]benzyl}-2,4-thiazolidinedione | C(C)C=1C=CC(=NC1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)CO | C20H22N2O4S
